US08067445B2
Step 5: 2-[2′-(3-Benzyl-1-ethyl-ureidomethyl)-5-chloro-4′-trifluoromethyl-biphenyl-3-yl]-propionic acid
Prepared according to the procedure described in Example 1, Step 4, using the following starting materials: 3-benzyl-1-ethyl-1-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-urea and (4R,5S)-3-[(S)-2-(3-bromo-5-chloro-phenyl)-propionyl]-4-methyl-5-phenyl-oxazolidin-2-one; under the coupling conditions, the oxazolidinone was hydrolyzed to the acid and the stereocenter racemized. M+H is 519.

reactant | 3-benzyl-1-ethyl-1-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-urea | C(C1=CC=CC=C1)NC(N(CC1=C(C=CC(=C1)C(F)(F)F)B1OC(C(O1)(C)C)(C)C)CC)=O | C24H30BF3N2O3
reactant | (4R,5S)-3-[(S)-2-(3-bromo-5-chloro-phenyl)-propionyl]-4-methyl-5-phenyl-oxazolidin-2-one | BrC=1C=C(C=C(C1)Cl)[C@@H](C(=O)N1C(O[C@H]([C@H]1C)C1=CC=CC=C1)=O)C | C19H17BrClNO3
reactant | oxazolidinone | O1C(NCC1)=O | C3H5NO2
product | 2-[2′-(3-Benzyl-1-ethyl-ureidomethyl)-5-chloro-4′-trifluoromethyl-biphenyl-3-yl]-propionic acid | C(C1=CC=CC=C1)NC(N(CC)CC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=CC(=C1)Cl)C(C(=O)O)C)=O | C27H26ClF3N2O3
